US07691882B2
3-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-6-methyl-pyridin-2-ylamine
To a tetrahydrofuran (2 mL) solution of 4-benzyloxy-phenyl-acetohydroximoyl chloride (63 mg, 0.23 mmol) described in Manufacturing Example 1-1-3 and 3-ethynyl-6-methyl-pyridin-2-ylamine (20 mg, 0.15 mmol) described in Manufacturing Example 170-1-5 was added triethylamine (42 μL, 0.30 mmol) at room temperature, which was stirred for 4 hours at 50° C. Water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered, and the filtrate was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=2:1), and then further purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (26 mg, 34%) as a trifluoroacetic acid salt.

reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | 4-benzyloxy-phenyl-acetohydroximoyl chloride | 0.23 mmol, 63 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=NO)Cl | C15H14ClNO2
reactant | 3-ethynyl-6-methyl-pyridin-2-ylamine | 0.15 mmol, 20 mg | C(#C)C=1C(=NC(=CC1)C)N | C8H8N2
reactant | triethylamine | 0.30 mmol, 42 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-6-methyl-pyridin-2-ylamine | 26 mg, 34% | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)C)N)C=C1 | C23H21N3O2
